*$
*PART NUMBER: NJU7044
*MANUFACTURER: NEW JAPAN RADIO
*CMOS OPAMP WITH SHUTDOWN
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.SUBCKT NJU7044 OUT1 -IN1 +IN1 VDD +IN2 -IN2 OUT2
+ OUT3 -IN3 +IN3 VSS +IN4 -IN4 OUT4
X_U1 +IN1 -IN1 VDD VSS OUT1 NJU7044_s
X_U2 +IN2 -IN2 VDD VSS OUT2 NJU7044_s
X_U3 +IN3 -IN3 VDD VSS OUT3 NJU7044_s
X_U4 +IN4 -IN4 VDD VSS OUT4 NJU7044_s
.ENDS NJU7044
.SUBCKT NJU7044_s  IN+ IN- V+ V- OUT
m1 3 IN- 6 V- nix l=6u w=20.813u
m2 4 7 6 V- nix l=6u w=25u
m3 8 IN- 5 5 pix l=6u w=25u   
m4 9 7 5 5 pix l=6u w=27.75u	
eos 7 IN+ poly(1) 25 98 5e-3 0.451   
iin1 IN+ 98 1.5p
iin2 IN- 98 1.5p
ios IN- IN+ 0.5p 	   
i1 V+ 5 50u
i2 6 V- 50u
r1 V+ 3 4.833k
r2 V+ 4 4.833k
r3 8 V- 4.833k
r4 9 V- 4.833k
d3 5 V+ dx
d4 V- 6 dx
eref 98 0 poly(2) V+ 0 V- 0 0 0.5 0.5
g1 98 21 poly(2) 4 3 9 8 0 145u 145u
rg 21 98 53.2e6   
cc 21 OUT 9.4p  		
d1 21 22 dx
d2 23 21 dx
v1 V+ 22 1.37
v2 23 V- 1.37
ecm 24 98 poly(2) IN+ 98 IN- 98 0 0.5 0.5
r5 24 25  1e6
r6 25 98 2.25k             
c1 24 25 0.75p
isy V+ V- 390u
gsy V+ V- poly(1) V+ V- -3.334e-4 6.667e-5
ep V+ 39 poly(1) 98 21 0.78925 1  
en 38 V- poly(1) 21 98 0.78925 1        
m15 OUT 39 V+ V+ pox l=1.5u w=270u     
m16 OUT 38 V- V- nox l=1.5u w=271u    
c15 OUT 39 1p		
c16 OUT 38 1p		
c17 5 9 10p
c18 out 9 30p
.model dx d(rs=1 cjo=0.1p)
.model nix nmos(vto=.75 kp=205.5u rd=1 rs=1 rg=1 rb=1
+ cgso=4e-9 cgdo=4e-9 cgbo=16.667e-9 cbs=100.5e-7
+ cbd=100.5e-7)	 
.model nox nmos(vto=.75 kp=195u rd=.5 rs=.5 rg=1 rb=1
+ cgso=66.667e-12 cgdo=66.667e-12 cgbo=125e-9
+ cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos(vto=-.75 kp=205.5u rd=1 rs=1 rg=1 rb=1
+ cgso=4e-12 cgdo=4e-12 cgbo=16.667e-9 cbs=2.534e-12
+ cbd=10.534e-12)	
.model pox pmos(vto=-.75 kp=195u rd=.5 rs=.5 rg=1 rb=1
+ cgso=66.667e-12 cgdo=66.667e-12 cgbo=125e-9
+ cbs=2.538e-11	cbd=2.538e-11)
.ends NJU7044_s